US05436264
Proceeding as in Example 3, but replacing 2-[2-(cyclopropylmethyloxy)phenoxy]ethyl methanesulfonate with 2-(2-methyloxyphenoxy)ethyl methanesulfonate and [1-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine with [2-(1H-indol-3-yl)-1,1-dimethylethyl]amine, gave [2-(1H-indol-3-yl)-1,1-dimethylethyl][2- (2-methyloxyphenoxy)ethyl]amine hydrochloride, m.p. 156°-158° C.

reactant | 2-(2-methyloxyphenoxy)ethyl methanesulfonate | CS(=O)(=O)OCCOC1=C(C=CC=C1)OC | C10H14O5S
reactant | [1-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine | ClC=1C=C2C(=CNC2=CC1)C(CN)(C)C | C12H15ClN2
reactant | [2-(1H-indol-3-yl)-1,1-dimethylethyl]amine | N1C=C(C2=CC=CC=C12)CC(C)(C)N | C12H16N2
product | [2-(1H-indol-3-yl)-1,1-dimethylethyl][2- (2-methyloxyphenoxy)ethyl]amine hydrochloride | Cl.N1C=C(C2=CC=CC=C12)CC(C)(C)NCCOC1=C(C=CC=C1)OC | InChI=1S/C21H26N2O2.ClH/c1-21(2,14-16-15-22-18-9-5-4-8-17(16)18)23-12-13-25-20-11-7-6-10-19(20)24-3;/h4-11,15,22-23H,12-14H2,1-3H3;1H
